US08193202B2
A. Preparation of tert-butyl 4-(tert-butoxycarbonylamino)-4-(3-(dimethylcarbamoyloxy)phenylcarbamoyl)piperidine-1-carboxylate.
N-Boc-amino-(4-N-Boc-piperidinyl)carboxylic acid (0.114 g, 0.33 mmol), HATU (0.151 g, 0.40 mmol) and N,N-diisopropylethylamine (128 mg, 1.0 mmol) were combined in isopropyl acetate (2.3 mL) and stirred at room temperature for 15 minutes. 3-aminophenyl dimethylcarbamate (0.072 g, 0.40 mmol) was added, and the mixture heated at 80° C. for 1.5 hours. The reaction mixture was allowed to cool, diluted with EtOAc, washed with 2 N Na2CO3, 1 N HCl, and brine, and then dried over MgSO4 and concentrated. Purification by silica gel chromatography (60% EtOAc/hexanes) gave the title compound (0.075 g, 45%) as a white solid. MS (ES+) [M+NH4]+=524.

reactant | N-Boc-amino-(4-N-Boc-piperidinyl)carboxylic acid | 0.33 mmol, 0.114 g | CC(C)(C)OC(=O)NC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)O | C16H28N2O6
reactant | HATU | 0.40 mmol, 0.151 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 1.0 mmol, 128 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-aminophenyl dimethylcarbamate | 0.40 mmol, 0.072 g | CN(C(OC1=CC(=CC=C1)N)=O)C | C9H12N2O2
solvent | isopropyl acetate | 2.3 mL | C(C)(=O)OC(C)C | C5H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 4-(tert-butoxycarbonylamino)-4-(3-(dimethylcarbamoyloxy)phenylcarbamoyl)piperidine-1-carboxylate | 0.075 g, 45% | C(C)(C)(C)OC(=O)NC1(CCN(CC1)C(=O)OC(C)(C)C)C(NC1=CC(=CC=C1)OC(N(C)C)=O)=O | C25H38N4O7
